* C:\Users\rashi\eln1-project-2020-rs-team\LTspice\Test-RprCpr.asc
R1 Vout N002 {R}
Rpr 0 Vout 1Meg
Cpr Vout 0 61.9pF
V2 Vcc 0 {Vbatt-Vref}
V3 0 Vee {Vref}
R2 N007 N006 {R}
Rpr1 0 N007 266k
Cpr1 N007 0 2.43nF
V4 N006 0 PULSE({-Vref} {Vbatt-Vref} 0 1u 1u {1/(2*freq)} {1/freq})
V1 N004 0 PULSE({-Vref} {Vbatt-Vref} 0 1u 1u {1/(2*freq)} {1/freq})
R3 Vmeas3 Vout3 {R}
Rpr2 0 Vmeas3 10k
Cpr2 Vmeas3 0 4.79nF
V5 N005 0 PULSE({-Vref} {Vbatt-Vref} 0 1u 1u {1/(2*freq)} {1/freq})
R4 N009 N008 {R}
Rpr3 0 N009 6.5k
Cpr3 N009 0 8.76nF
V6 N008 0 PULSE({-Vref} {Vbatt-Vref} 0 1u 1u {1/(2*freq)} {1/freq})
Rpr4 0 N011 750
Cpr4 N011 0 58.8nF
V7 N010 0 PULSE({-Vref} {Vbatt-Vref} 0 1u 1u {1/(2*freq)} {1/freq})
R5 N011 N010 {R}
XU2 0 N001 Vcc Vee N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R8 N002 N001 10k
R9 N001 N004 50k
XU1 0 N003 Vcc Vee Vout3 level.2 Avol=1Meg GBW=14k Slew=3.5Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R6 Vout3 N003 100k
R7 N003 N005 510k
.params freq=2k Vbatt=3 R=10k R1=5k Vref=1.25
.tran 0 110m 10m 1u
.lib UniversalOpamps2.sub
.backanno
.end
